US05143920
2-Fluoroaniline (25 g, 0.23 mol) and ethyl 2-butyryl-3-ethoxyacrylate (48 g, 0.23 mol) were heated at 150° for 2 hours, then diluted with petroleum ether and left to stand overnight. Filtration and washing gave ethyl 2-butyryl-3-(2-fluorophenylamino)acrylate (37.5 g), m.p. 60°-62°.

reactant | 2-Fluoroaniline | 0.23 mol, 25 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | ethyl 2-butyryl-3-ethoxyacrylate | 0.23 mol, 48 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
product | ethyl 2-butyryl-3-(2-fluorophenylamino)acrylate | 37.5 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)F | C15H18FNO3
